US08133998B2
To a mixture of 4-oxo-3,4-dihydroquinazoline-6-carboxylic acid (2.5 g, 13.15 mmol) in methanol (80 mL) was added thionyl chloride (2.5 mL) at 5° C. The mixture was refluxed at 80° C. over night. The reaction mixture was concentrated under vacuum and crude taken in ethyl acetate. The organic layer was washed with 10% aqueous NaHCO3, water, brine and dried. The solvent was removed to give methyl 4-oxo-3,4-dihydroquinazoline-6-carboxylate in 55% as solid.

reactant | 4-oxo-3,4-dihydroquinazoline-6-carboxylic acid | 13.15 mmol, 2.5 g | O=C1NC=NC2=CC=C(C=C12)C(=O)O | C9H6N2O3
reactant | thionyl chloride | 2.5 mL | S(=O)(Cl)Cl | Cl2OS
reactant | methanol | 80 mL | CO | CH4O
product | methyl 4-oxo-3,4-dihydroquinazoline-6-carboxylate | O=C1NC=NC2=CC=C(C=C12)C(=O)OC | C10H8N2O3
